US09371282B2
3-bromo-2-formylpyridine (5 g, 26.88 mmol) and methylhydrazine (1.70 mL, 32.25 mmol) are dissolved in ethanol (10 mL) and heated at 80° C. for 2 h. Volatiles are removed under reduced pressure and the residue is re-evaporated several times to give N-[1-(3-Bromo-pyridin-2-yl)-methylidene]-N′-methyl-hydrazine (5.70 g, 99%)

reactant | 3-bromo-2-formylpyridine | 26.88 mmol, 5 g | BrC=1C(=NC=CC1)C=O | C6H4BrNO
reactant | methylhydrazine | 32.25 mmol, 1.70 mL | CNN | CH6N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-[1-(3-Bromo-pyridin-2-yl)-methylidene]-N′-methyl-hydrazine | 5.70 g, 99% | BrC=1C(=NC=CC1)C=NNC | C7H8BrN3
